US03962451
To a solution of 78.0 g (0.4 mole) of 9-ethylcarbazole and 141 g (1.0 mole) of 4-chlorobutyryl chloride in 1 liter of methylene chloride, which has been previously chilled to 0°C, is added portionwise 127.0 g (0.95 mole) of aluminum chloride. The mixture is stirred at room temperature for 16 hours, and the resulting complex is decomposed with a concentrated hydrochloric acid-ice mixture. The organic layer is separated, washed with water, dried over magnesium sulfate and pentane added to precipitate the desired product. Recrystallization from acetone followed by a recrystallization from an acetone methanol solution results in the formation of 3,6-bis (4-chlorobutyryl)-9-ethylcarbazole, m.p. 106°-8°C; λmaxEtOH 259; and E1cm1% 1030.

reactant | 9-ethylcarbazole | 0.4 mole, 78.0 g | C(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H13N
reactant | 4-chlorobutyryl chloride | 1.0 mole, 141 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | aluminum chloride | 0.95 mole, 127.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 1 liter | C(Cl)Cl | CH2Cl2
product | 3,6-bis (4-chlorobutyryl)-9-ethylcarbazole | ClCCCC(=O)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(CCCCl)=O)CC | C22H23Cl2NO2
